US06878715B1
To a solution of (S)-1-(5-hydroxyhexyl)-7-benzyl-8-methylaminoethyl-3-methylxanthine in methanol (35 ml) was added triethylamine (1.44 g, 14.2 mmol) followed by di-tert-butyl dicarbonate (1.85 g, 8.5 mmol). After stirring at room temperature overnight, the mixture was concentrated under reduced pressure. The residue was treated with water (50 ml) and extracted with ethyl acetate (3×50 ml). The combined extracts were washed with water (2×25 ml), saturated aqueous sodium chloride solution (25 ml), dried over magnesium sulfate, and concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (1:1) to provide (S)-1-(5-hydroxyhexyl)-7-benzyl-8-(N-BOC-methylaminomethyl)-3-methylxanthine (2.1 g, 76% yield) as a white solid.

reactant | (S)-1-(5-hydroxyhexyl)-7-benzyl-8-methylaminoethyl-3-methylxanthine | O[C@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)CCNC)C)C | C22H31N5O3
reactant | triethylamine | 14.2 mmol, 1.44 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 8.5 mmol, 1.85 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 35 ml | CO | CH4O
product | (S)-1-(5-hydroxyhexyl)-7-benzyl-8-(N-BOC-methylaminomethyl)-3-methylxanthine | 2.1 g, 76% yield | O[C@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)CN(C(=O)OC(C)(C)C)C)C)C | C26H37N5O5
